US08937071B2
To a solution of 2-(4-bromo-2-fluorophenyl)-N-(3,4-dichlorophenyl)acetamide (60 mg, 0.159 mmol), 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (61.3 mg, 0.159 mmol) and Cs2CO3 (156 mg, 0.477 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL) was added PdCl2(dppf) (11.64 mg, 0.016 mmol) in one charge. The mixture was stirred at 130° C. in the microwave for 30 min. After LCMS analysis showed the starting material had disappeared, the mixture was filtered. The filtrate was concentrated and evaporated to dryness to give crude product which was dissolved in DCM and washed with H2O and brine. Then the crude product was purified by preparative TLC (DCM/MeOH=40/1) to give pure product N-(3,4-dichlorophenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (60.0 mg, 0.084 mmol, 52.7% yield): 1H NMR: (400 MHz, CD3OD) δ 7.95 (d, J=2.0 Hz, 1H), 7.92 (d, J=1.8 Hz, 1H), 7.45 (s, 3H), 7.43-7.37 (m, 5H), 6.91 (d, J=8.6 Hz, 2H), 5.37 (s, 2H), 4.15 (m, 3H), 3.79 (s, 4H), 1.42 (t, J=7.0 Hz, 3H); ES-LCMS: m/z 435 (M−120).

reactant | 2-(4-bromo-2-fluorophenyl)-N-(3,4-dichlorophenyl)acetamide | 0.159 mmol, 60 mg | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)Cl)Cl)F | C14H9BrCl2FNO
reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.159 mmol, 61.3 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | Cs2CO3 | 0.477 mmol, 156 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | 0.016 mmol, 11.64 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(3,4-dichlorophenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.084 mmol, 60.0 mg, 52.7% yield | ClC=1C=C(C=CC1Cl)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O | C29H25Cl2FN2O4
